US04389403
4.15 g (24 millimoles) of nicotinoylimidazolide and 4.6 g (20 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline in 100 ml of absolute toluene are refluxed for 3 hours. The mixture is then concentrated to dryness on a rotary evaporator and the residue is worked up as described in Example 41. 2.9 g of pure 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline of melting point 172.5°-173.5° C. are obtained; the material is identical with the product obtained according to Example 1.

reactant | nicotinoylimidazolide | 24 millimoles, 4.15 g | C(C1=CN=CC=C1)(=O)C=1[N-]C=CN1
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 20 millimoles, 4.6 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline | 2.9 g | C(C1=CN=CC=C1)(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C15H12Cl2N4O
